US04686220
4-(3-Chloro-1,4-dioxo-2-naphthyl)-1-piperazinecarboxylic acid, ethyl ester
A mixture of 11.35 g of 2,3-dichloro-1,4-naphthoquinone, 15.8 g of 1-piperazinecarboxylic acid, ethyl ester and 400 ml of absolute ethanol was heated at reflux for 3 hours and then evaporated to dryness. The residue was taken up in 300 ml of dichloromethane and filtered through silica gel. The filtrate was evaporated and the residue triturated with ether, giving 8.0 g of the desired product as red crystals, mp 120°-122° C.

reactant | 2,3-dichloro-1,4-naphthoquinone | 11.35 g | ClC=1C(C2=CC=CC=C2C(C1Cl)=O)=O | C10H4Cl2O2
reactant | 1-piperazinecarboxylic acid, ethyl ester | 15.8 g | N1(CCNCC1)C(=O)OCC | C7H14N2O2
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | 4-(3-Chloro-1,4-dioxo-2-naphthyl)-1-piperazinecarboxylic acid, ethyl ester | 8.0 g | ClC1=C(C(C2=CC=CC=C2C1=O)=O)N1CCN(CC1)C(=O)OCC | C17H17ClN2O4
